US04448784
An ice cold slurry of 5.89 g (42.6 mmole) of K2CO3 and 5.3 g (35.5 mmole) of 5-methoxyindoline in 55 ml of DMF was treated dropwise with a solution of 7.28 g (37.3 mmole) of α-bromo-m-tolunitrile in 50 ml of DMF. After stirring for 1 hour at room temperature, the reaction mixture was concentrated under high vacuum. The residue was partitioned between methylene chloride (250 ml) and water (250 ml). The organic layer was separated, washed with 5% NaOH (300 ml), brine (300 ml), dried over Na2SO4 and concentrated under vacuum to yield 9.28 g (98.9% yield) of α-(5-methoxy-1-indolinyl)-m-tolunitrile.

reactant | K2CO3 | 42.6 mmole, 5.89 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-methoxyindoline | 35.5 mmole, 5.3 g | COC=1C=C2CCNC2=CC1 | C9H11NO
reactant | α-bromo-m-tolunitrile | 37.3 mmole, 7.28 g | BrCC1=CC(=CC=C1)C#N | C8H6BrN
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | α-(5-methoxy-1-indolinyl)-m-tolunitrile | 9.28 g, 98.9% yield | COC=1C=C2CCN(C2=CC1)CC1=CC(=CC=C1)C#N | C17H16N2O
